US07902196B2
According to the literature procedure (Utzinger et al. Helv. Chim. Acta 1954, 37, 1892; incorporated herein by reference) N-phenyl-hydroxylamine (188.7 mg, 1.7 mmol, 1.0 equiv) was added to a solution of (E)-cinnamaldehyde (218 μL, 1.73 mmol, 1 equiv) in ethanol (1.5 mL, absolute). The bright yellow solution was stirred for 9 h at 23° C. in the dark, and then was cooled in an ice bath. The cooled, heterogeneous solution was filtered and the filter cake was washed once with hexanes (10 mL). The filter cake was dried in vacuo overnight, furnishing α-(trans-2-phenyl-ethenyl)-N-phenylnitrone (293 mg, 76%, yellow solid) mp=150-152° C. (lit. 150-151° C.). 1H NMR data were in accord with that previously reported.

reactant | N-phenyl-hydroxylamine | 1.7 mmol, 188.7 mg, 1.0 equiv | C1(=CC=CC=C1)NO | C6H7NO
reactant | (E)-cinnamaldehyde | 1.73 mmol, 218 μL, 1 equiv | C(\C=C\C1=CC=CC=C1)=O | C9H8O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | α-(trans-2-phenyl-ethenyl)-N-phenylnitrone | 293 mg, 76% | C1(=CC=CC=C1)/C=C/C=[N+]([O-])C1=CC=CC=C1 | C15H13NO
